US06586592B2
Step 3: Preparation of 4-(1,4-diazepan-1-yl)-2-nitrophenyl 3-fluorophenyl Sulfone
A mixture of 4-fluoro-2-nitrophenyl 3-fluorophenyl sulfone (5.00 g, 16.7 mmol), homopiperazine (2.09 g, 20.9 mmol), and potassium carbonate (3.46 g, 25.1 mmol) in 140 mL of dry acetonitrile is stirred vigorously for 4 h at 60° C. After cooling to room temperature, water and CH2Cl2 (140 mL each) are added and the layers separated. The aqueous layer extracted with CH2Cl2 (3×50 mL). The combined organics are dried over MgSO4, filtered, and concentrated to give an orange solid. The crude product is triturated with a hot Et2O:CH2Cl2 mixture (4:1 ) until solid. Further trituration with hot EtOAc/hexane gave 6.31 g (99%) of the title compound as bright yellow solid.

reactant | 4-fluoro-2-nitrophenyl 3-fluorophenyl sulfone | 16.7 mmol, 5.00 g | FC=1C=C(C=CC1)S(=O)(=O)C1=C(C=C(C=C1)F)[N+](=O)[O-] | C12H7F2NO4S
reactant | homopiperazine | 20.9 mmol, 2.09 g | N1CCNCCC1 | C5H12N2
reactant | potassium carbonate | 25.1 mmol, 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,4-diazepan-1-yl)-2-nitrophenyl 3-fluorophenyl Sulfone | 6.31 g, 99% | FC=1C=C(C=CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CCNCCC1)[N+](=O)[O-] | C17H18FN3O4S
